US08071807B2
Step 5: [3-(2-Benzylsulfanylmethyl-4-chloro-phenoxy)-4-methoxy-phenyl]-acetic acid
[3-(2-Benzylsulfanylmethyl-4-chloro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester was hydrolyzed with lithium hydroxide in MeOH and H2O to give the title compound.

reactant | [3-(2-Benzylsulfanylmethyl-4-chloro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Cl)CSCC1=CC=CC=C1)=O | C25H25ClO4S
reactant | lithium hydroxide | [OH-].[Li+]
solvent | MeOH | CO | CH4O
solvent | H2O | O | H2O
product | [3-(2-Benzylsulfanylmethyl-4-chloro-phenoxy)-4-methoxy-phenyl]-acetic acid | C(C1=CC=CC=C1)SCC1=C(OC=2C=C(C=CC2OC)CC(=O)O)C=CC(=C1)Cl | C23H21ClO4S
